US06646165B2
A 4-necked, 1-liter flask equipped with a stirrer, a thermometer, a dropping funnel and a condenser tube was charged with 163.1 g (0.824 mole of 3,5-dichlorothiophenol) of the crude 3,5-dichlorothiophenol (purity 90.4%) prepared by the process of Example 1, and 370 g (0.925 mole) of an aqueous solution of 10 wt % sodium hydroxide. After 15 minutes of reaction at 25° C., the reaction mixture was subjected to separation procedure to give an aqueous solution of sodium 3,5-dichlorothiophenolate.

reactant | 3,5-dichlorothiophenol | 0.824 mole, 163.1 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 3,5-dichlorothiophenolate | ClC=1C=C(C=C(C1)Cl)[S-].[Na+] | InChI=1S/C6H4Cl2S.Na/c7-4-1-5(8)3-6(9)2-4;/h1-3,9H;/q;+1/p-1
